US07671043B2
2B. 4-Isobutylbenzohydrazide
Hydrazine monohydrate (2.43 g, 48.5 mmol) was added slowly to a heterogeneous solution of ethyl 4-isobutylbenzoate (5.0 g, 24.2 mmol) and H2O and stirred at reflux for 12 hours. The reaction mixture was cooled to room temperature and filtered. The yellow solid was washed with cold water (1×20 mL) and dried to provide the title compound (3.33 g, 78% yield) as a yellow solid.

reactant | Hydrazine monohydrate | 48.5 mmol, 2.43 g | O.NN
reactant | ethyl 4-isobutylbenzoate | 24.2 mmol, 5.0 g | C(C(C)C)C1=CC=C(C(=O)OCC)C=C1 | C13H18O2
solvent | H2O | O | H2O
product | 4-Isobutylbenzohydrazide | 3.33 g, 78% yield | C(C(C)C)C1=CC=C(C(=O)NN)C=C1 | C11H16N2O
